US07906517B2
(5′-Isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine (500 mg) is dissolved in N,N-dimethylformamide (3 ml), and thereto is added 3-fluoro-5-(trifluoromethyl)benzylbromide (528 mg) and thereto is added sodium hydride (60%) (82 mg) under ice-cooling, and the mixture is stirred at room temperature for 2 hours and a half. To the reaction solution are added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=49:1→22:3) to give (3-fluoro-5-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine (440 mg). MS (m/z): 663 [M+H]+

reactant | (5′-Isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine | 500 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNC1=NC=C(C=N1)N1CCOCC1)OC | C26H29F3N4O2
reactant | 3-fluoro-5-(trifluoromethyl)benzylbromide | 528 mg | FC=1C=C(CBr)C=C(C1)C(F)(F)F | C8H5BrF4
reactant | sodium hydride | 82 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | (3-fluoro-5-trifluoromethyl-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine | 440 mg | FC=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F | C34H33F7N4O2
